US05571775
45. Preparation of 3-Amino-4-ethyl-2-fluoropyridine
Trimethylsilyl chloride (2.2 g, (0.18 mmol) and sodium iodide (2.7 g, 0.18 mmol) were added to a solution of 3.6 g (0.15 mmol) of t-butyl N-(4-ethyl-2-fluoro-3-pyridyl)carbamate in 50 mL of dry acetonitrile with stirring at ambient temperature. After 2 hours the mixture was poured into ether and the resulting solution was washed with dilute aqueous sodium bisulfite, dried over magnesium sulfate, and filtered. The filtrate was concentrated by evaporation under reduced pressure to obtain an oil. This oil was purified by column chromatography to obtain 1.6 g (76 percent of theory) of the title compound as a gold oil.

reactant | Trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium iodide | 0.18 mmol, 2.7 g | [I-].[Na+]
reactant | t-butyl N-(4-ethyl-2-fluoro-3-pyridyl)carbamate | 0.15 mmol, 3.6 g | C(C)C1=C(C(=NC=C1)F)NC(OC(C)(C)C)=O | C12H17FN2O2
reactant | ether | CCOCC | C4H10O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-Amino-4-ethyl-2-fluoropyridine | NC=1C(=NC=CC1CC)F | C7H9FN2
